US04492659
The 2-benzyloxymethyl-3-heptadecyloxy-1-propanol used as starting material is obtained by reacting 2-isopropyl-5-hydroxymethyl-1,3-dioxan with benzyl bromide to give 2-isopropyl-5-benzyloxymethyl-1,3-dioxan (oil), subsequent splitting with sulfuric acid and reaction with an equimolar amount of heptadecyl bromide.

reactant | 2-benzyloxymethyl-3-heptadecyloxy-1-propanol | C(C1=CC=CC=C1)OCC(CO)COCCCCCCCCCCCCCCCCC | C28H50O3
reactant | 2-isopropyl-5-hydroxymethyl-1,3-dioxan | C(C)(C)C1OCC(CO1)CO | C8H16O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-isopropyl-5-benzyloxymethyl-1,3-dioxan | C(C)(C)C1OCC(CO1)COCC1=CC=CC=C1 | C15H22O3
